US03972888
1 g of 3,4-dimethyl-6-(2,4-dimethylbenzyl)-2-pyrone, 0.5 g of hydroxylamine hydrochloride and 3 g of imidazole were heated for 8 hours to 75° C and then worked up in the usual manner. There were obtained 0.63 g (59 %) of 1-hydroxy-3,4-dimethyl-6-(2,4-dimethylbenzyl)-2-pyridone melting at 141° C (Calc.: 5.4 % N; found: 5.6 % N). When using pyridine instead of imidazole under otherwise equal reaction conditions, the yield was 0.003 g (0.3 %).

reactant | 3,4-dimethyl-6-(2,4-dimethylbenzyl)-2-pyrone | 1 g | CC=1C(OC(=CC1C)CC1=C(C=C(C=C1)C)C)=O | C16H18O2
reactant | hydroxylamine hydrochloride | 0.5 g | Cl.NO
reactant | imidazole | 3 g | N1C=NC=C1 | C3H4N2
product | 1-hydroxy-3,4-dimethyl-6-(2,4-dimethylbenzyl)-2-pyridone | 0.63 g | ON1C(C(=C(C=C1CC1=C(C=C(C=C1)C)C)C)C)=O | C16H19NO2
